US04636516
To a mixed solution of 1.2 g of 4-(2-aminoacetyl)-2,6-di-tert-butylphenol hydrochloride, 10 ml of ethanol, and 0.3 ml of concentrated hydrochloric acid was added a solution of 0.64 g of potassium isocyanate in 3 ml of water at room temperature. After stirring the mixture for 2 hours, 0.3 ml of concentrated hydrochloric acid was added thereto and the resultant mixture was refluxed for 2 hours. The reaction mixture thus obtained was poured into water and the precipitates formed were recovered by filtration. The reaction product was then recrystallized from aqueous ethanol to provide 0.5 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-4-imidazoline.

reactant | 4-(2-aminoacetyl)-2,6-di-tert-butylphenol hydrochloride | 1.2 g | Cl.NCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
reactant | potassium isocyanate | 0.64 g | [N-]=C=O.[K+]
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-4-imidazoline | 0.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1)=O | C17H24N2O2
